US07566736B2
3.23 g (17.54 mmol) of (4-fluoro-3-nitrophenyl)-dimethylamine are added, at a temperature in the region of 20° C., to a suspension of 0.6 g (5.63 mmol) of 10% palladium-on-charcoal in 100 cm3 of methanol. After hydrogenation for 30 minutes in an autoclave under 5 bar of hydrogen, at a temperature in the, region of 25° C., the reaction mixture is filtered, the catalyst is rinsed with 3 times 10 cm3 of methanol, and the filtrate is then concentrated to dryness under reduced pressure (2.7 kPa), to give 2.7 g of 4-fluoro-N1,N1-dimethylbenzene-1,3-diamine, in the form of a brown oil;

reactant | (4-fluoro-3-nitrophenyl)-dimethylamine | 17.54 mmol, 3.23 g | FC1=C(C=C(C=C1)N(C)C)[N+](=O)[O-] | C8H9FN2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 cm3 | CO | CH4O
catalyst | palladium-on-charcoal | 5.63 mmol, 0.6 g | [Pd] | Pd
product | 4-fluoro-N1,N1-dimethylbenzene-1,3-diamine | 2.7 g | FC1=C(C=C(C=C1)N(C)C)N | C8H11FN2
